Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Syncope 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ male with history of type 2 diabetes on 
metformin, former smoker who presents with complaint of syncope. 
Patient was at the ___ accompanying his wife for an 
appointment on morning of ___ when he became diaphoretic, 
flushed, and felt the need to sit down when he lost 
consciousness
for several seconds. He also endorsed nausea after the episode. 
He denies any fall to the ground, although did hit his head 
against a chair and developed small abrasion. He denies chest 
pain or dyspnea and denies any associated symptoms over the 
preceding days. He is never had any similar episodes in the 
past. He denies any history of leg swelling or prior blood clot 
per him
or his family history.

Patient also endorses episodes of "pauses" in his chest that 
have occurred while driving his cab or sitting at home. No 
specific triggers. He denies any associated symptoms such as 
presyncope, shortness of breath, chest pain. The episodes last 
several seconds and resolve without intervention. 

In the ED initial vitals were:   98.7  82  128/56  16  99% RA 
EKG: Sinus rhythm, HR 80, TWI and ST depressions in V2-V6 and I 
and aVL, prominent R waves V2-V6. No prior EKGs to compare to.
Labs/studies notable for: Trop 0.01 x 2, D-dimer 305. 
Patient was given:  PO Aspirin 324 mg 
Vitals on transfer: 98.0 74 129/61 18 98% RA  

Cards consulted: 
Given patient endorsed unrelated episodes of "pauses" while 
driving his cab or sitting at home, an ECHO was ordered which 
showed apical hypertrophic cardiomyopathy. Given high risk for 
malignant arrhythmias, it was decided to admit for Telemetry.

On the floor endorses above story. Denies any symptoms at this 
time and understands he is here for monitoring.

REVIEW OF SYSTEMS:  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations.  

On further review of systems, denies any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, joint pains, cough, 
hemoptysis, black stools or red stools. Denies exertional 
buttock or calf pain. Denies recent fevers, chills or rigors. 
All of the other review of systems were negative.
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Diabetes   
- Dyslipidemia  

2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  

3. OTHER PAST MEDICAL HISTORY  
- Goiter 
- Scleral disorder 
- Rotator cuff tear 
- DM type 2 (diabetes mellitus, type 2) 
- Multinodular goiter (nontoxic) 
- Other hyperlipidemia 
- H.Pylori s/p treatment ___
 
Social History:
___
Family History:
Brother Alive ___ - Type II 
Father ___ at age ___ Diabetes - Type II 
Mother Alive deceased - died of "old age"
Total 2 brothers and 4 sisters - all healthy.

No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.
 
Physical Exam:
===============================
ADMISSSION PHYSICAL EXAMINATION  
===============================
Temp: 99.0 (Tm 99.0), BP: 130/72, HR: 76, RR: 18, O2 sat: 96%, 
O2 delivery: RA 
GENERAL: Well-developed, well-nourished. NAD. Mood, affect 
appropriate, very pleasant.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no 
pallor or cyanosis of the oral mucosa. No xanthelasma.  
NECK: Supple with JVP of 7cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric 

===============================
DISCHARGE PHYSICAL EXAMINATION  
===============================
T:98.4 BP:121/73 HR:70 RR:16 SaO2:99 RA 
GENERAL: Well appearing man sitting up in bed and speaking to me 
in no apparent distress.
HEENT: Pupils equal and reactive. No scleral icterus or 
injection.
NECK: No JVD.   
CARDIAC: S1/S2 regular with no murmurs, rubs, or S3/S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric  
 
Pertinent Results:
============================
ADMISSION LABORATORY STUDIES
============================
___ 11:00AM   WBC-8.2 RBC-6.49* HGB-12.0* HCT-40.7 MCV-63* 
MCH-18.5* MCHC-29.5* RDW-19.4* RDWSD-39.2
___ 11:00AM   GLUCOSE-133* UREA N-14 CREAT-1.1 SODIUM-140 
POTASSIUM-4.2 CHLORIDE-104 TOTAL CO2-22 ANION GAP-14
___ 11:00AM   cTropnT-<0.01
___ 07:20PM   cTropnT-<0.01
___ 08:39PM   D-DIMER-305

==========================================
DISCHARGE AND PERTINENT LABORATORY STUDIES
==========================================
___ 06:00AM BLOOD WBC-4.6 RBC-6.38* Hgb-11.8* Hct-39.5* 
MCV-62* MCH-18.5* MCHC-29.9* RDW-19.6* RDWSD-38.3 Plt ___
___ 06:00AM BLOOD Glucose-88 UreaN-14 Creat-0.8 Na-142 
K-4.0 Cl-104 HCO3-28 AnGap-10

===========================
REPORTS AND IMAGING STUDIES
===========================
---
EKG
---
Sinus rhythm, HR 80, TWI and ST depressions in V2-V6 and I and
aVL, prominent R waves V2-V6. No prior EKGs to compare to.
 
___ 2D-ECHOCARDIOGRAM
Conclusions   
There is mild symmetric left ventricular hypertrophy. There is 
isolated apical left ventricular hypertrophy with obliteration 
of the apical cavity as well as marked hypokinesis of the 
thickened apical segments. The true apex is akinetic 
/dyskinetic. The left ventricular cavity size is normal. Overall 
left ventricular systolic function is normal (LVEF = 70%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. The ascending 
aorta is mildly dilated. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. Mild (1+) 
mitral regurgitation is seen. There is mild pulmonary artery 
systolic hypertension. There is no pericardial effusion. 

IMPRESSION: apical hypertrophic cardiomyopathy ___ 
syndrome)   

------------------
___ STRESS TEST
------------------  
INTERPRETATION: 
This ___ yo man with h/o HLD, NIDDM, and recent echo showing 
apical hypertrophic cardiomyopathy ___ syndrome) was 
referred to the lab for evaluation of syncope and abnormal EKG. 
The patient was administered 0.4 mg Regadenoson (Lexiscan) IV 
Bolus over 20 seconds. There were no reports of chest, back, 
neck, or arm discomforts, or presyncopal symptoms during the 
study. In the setting of baseline STT abnormalities, the ST 
segments were uninterpretable for ischemia. Rhythm was sinus 
with one APB. There was an appropriate heart rate and blood 
pressure response to the infusion. Post-MIBI, the Regadenoson 
was reversed with 125 mg Aminophylline IV.
 
IMPRESSION: No anginal or presyncopal type symptoms with 
uninterpretable EKG for ischemia. Nuclear report sent 
separately. 

------------
CARDIAC CATH
------------
NONE. 

============
MICROBIOLOGY
============
None
 
Brief Hospital Course:
=================
SUMMARY STATEMENT
=================
Mr. ___ is a ___ male with history of type 2 diabetes 
on metformin, former smoker who presents with complaint of 
syncope, found to have apical hypertrophic cardiomyopathy on 
echocardiogram done in ED, who was subsequently admitted for 
observation. Mr. ___ presentation was thought to be highly 
consistent with a vasovagal episode. However, he was 
incidentally found to have apical hypertrophic cardiomyopathy 
and started on low dose beta-blockade for prophylaxis. His 
telemetry did not show any cardiac events while he was 
hospitalized, and he remained asymptomatic until discharge. 

- CORONARIES: Unknown
- PUMP: Moderate fixed inferior wall defect. LVEF 52%. Apical 
hypertrophyic cardiomyopathy. 
- RHYTHM: Sinus 

====================
ACUTE MEDICAL ISSUES
====================
# SYNCOPE:
# new APICAL HYPERTROPHIC CARDIOMYOPATHY
Patient's episode of syncope on ___ is classic for vasovagal 
with nausea, diaphoresis, brief LOC in setting of wife having 
dressing changed at spine clinic. He denied any chest pain or 
shortness of breath, palpitations during the episode. 

On history, patient endorsed unrelated events of "pauses" in his 
heart, not associated with any chest pain or shortness of 
breath, which prompted an ECHO which then showed apical 
hypertrophic cardiomyopathy, EF 70%. EKGs showed classic TWI in 
V2-V6 and I and aVL, prominent R waves V2-V6. Given patient was 
completely asymptomatic, the treatment for his apical HCM is 
clinical observation and beta blockade. Syncopal episode from 
___ likely unrelated to the palpitation episodes, however given 
increased risk of malignant arrhythmias,patient was admitted for 
Telemetry monitoring. His telemetry did not show any 
abnormalities. A stress MIBI showed fixed inferior wall defect. 

Of note, apical hypertrophic cardiomyopathy is rare and cause is 
likely genetic; prevalence greater in Asians. Patient does not 
have a family history of heart disease or sudden death.

Further outpatient evaluation of his apical hypertrophic 
cardiomyopathy will include a two week event monitor as well as 
and outpatient cardiac MRI. Low dose metoprolol was also 
initiated to reduce his risk of malignant arrhythmia. 

======================
CHRONIC MEDICAL ISSUES
======================
# HLD:
- Continued home atorvastatin
- Aspirin was started given his elevated cardiovascular risk 
score 

# CHRONIC MICROCYTIC ANEMIA: 
Baseline Hgb ___. Iron studies showed likely mild iron 
deficiency anemia. 

# TYPE II DIABETES: 
Held metformin while in house.

===================
TRANSITIONAL ISSUES
===================
- New Meds: Aspirin 81mg daily; Metoprolol succinate 25mg daily 
- Stopped/Held Meds: None
- Changed Meds: None
- Post-Discharge Follow-up Labs Needed: None
- Incidental Findings: Apical hypertrophyic cardiomyopathy, as 
above 
- Discharge weight: 

[ ] Patient should not drive for one month while further cardiac 
evaluation is being completed.
[ ] Patient will be ordered for event monitor by inpatient 
Atrius cardiologist 
[ ] Patient should have an outpatient cardiac MRI to better 
evaluate his apical hypertrophy
[ ] Patient needs colonoscopy in the context of anemia and no 
colonoscopy in over ___ years 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. MetFORMIN (Glucophage) 500 mg PO BID 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 
3.  Atorvastatin 40 mg PO QPM  
4.  MetFORMIN (Glucophage) 500 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
=================
PRIMARY DIAGNOSIS
=================
Syncope

===================
SECONDARY DIAGNOSES
===================
Diabetes
Hyperlipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure caring for you while you were admitted to ___ 
___. 

WHY WERE YOU ADMITTED TO THE HOSPITAL?
You were admitted to the hospital because you lost 
consciousness. 

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- We monitored your heart and did not find any evidence of 
abnormal beats. 
- We did an ultrasound of her heart (echocardiogram) that showed 
some thickening of the heart. We did not think this is what 
caused your symptoms. 
- We started you on new medications because of the thickening in 
your heart. 

WHAT SHOULD YOU DO WHEN YOU GO HOME?
- Please carefully review your medication list, as we changed 
your medications. 
- Call your doctor, or call ___ if you have another episode of 
feeling faint, dizzy, or lightheaded. 
- You should not drive for one month, while your cardiologist is 
completing your evaluation for passing out.

Sincerely,
___ Cardiology Team 
 
Followup Instructions:
___